US08293768B2
Synthesis of ethyl 4-methyl-2-(5-oxo-1-(4,4,4-trifluorobutyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate
Following the procedure as described in Example 19, making variation as required to replace 4-(trifluoromethyl)benzyl bromide with 4-bromo-1,1,1-trifluorobutane to react with ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate, the title compound was obtained as a white solid in 32% yield: 1H NMR (300 MHz, CDCl3) δ 8.28 (s, 1H), 4.29 (q, J=7.1 Hz, 2H), 3.92 (t, J=6.6 Hz, 2H), 2.64 (s, 3H), 2.99-1.96 (m, 4H), 1.35 (t, J=7.1 Hz, 3H); MS (ES+) m/z 365.3 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 4-bromo-1,1,1-trifluorobutane | BrCCCC(F)(F)F | C4H6BrF3
reactant | ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C=NNC1=O | C9H10N4O3S
product | ethyl 4-methyl-2-(5-oxo-1-(4,4,4-trifluorobutyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | 32% yield | CC=1N=C(SC1C(=O)OCC)N1C=NN(C1=O)CCCC(F)(F)F | C13H15F3N4O3S
